US08580824B2
To a solution of 4-benzyloxy-3-ethyl-5-methylbenzoic acid (115 mg, 0.425 mmol) in DMF (1.5 mL), EDC HCl (46 mg, 0.467 mmol) followed by HOBT (63 mg, 0.467 mmol) is added. The mixture is stirred at rt for 15 min before DIPEA (219 mg, 1.70 mmol) and a solution of 2,2-diethoxy-2-(2-isobutyl-6-methyl-pyridin-4-yl)-ethylamine dihydrochloride (150 mg, 0.425 mmol) in DMF (0.5 mL) is added. The mixture is stirred at rt for 4.5 h before another portion of EDC HCl (20 mg) and HOBT (30 mg) is added. Stirring is continued at rt for 16 h. The mixture is diluted with EA (30 mL), washed with sat. aq. NaHCO3 solution (15 mL), water (15 mL) and brine (15 mL), dried over Na2SO4, filtered and concentrated. The crude product is purified on prep. TLC with heptane:EA 1:1 to give 4-benzyloxy-N-[2,2-diethoxy-2-(2-isobutyl-6-methyl-pyridin-4-yl)-ethyl]-3-ethyl-5-methyl-benzamide (137 mg) as a pale yellow wax; LC-MS: tR=1.13, [M+1]+=533.15.

reactant | 4-benzyloxy-3-ethyl-5-methylbenzoic acid | 0.425 mmol, 115 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1C)CC | C17H18O3
reactant | EDC HCl | 0.467 mmol, 46 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.467 mmol, 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.70 mmol, 219 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2-diethoxy-2-(2-isobutyl-6-methyl-pyridin-4-yl)-ethylamine dihydrochloride | 0.425 mmol, 150 mg | Cl.Cl.C(C)OC(CN)(C1=CC(=NC(=C1)C)CC(C)C)OCC
reactant | EDC HCl | 20 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EA | 30 mL | CC(OCC)=O | C4H8O2
product | 4-benzyloxy-N-[2,2-diethoxy-2-(2-isobutyl-6-methyl-pyridin-4-yl)-ethyl]-3-ethyl-5-methyl-benzamide | 137 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NCC(C2=CC(=NC(=C2)C)CC(C)C)(OCC)OCC)C=C1C)CC | C33H44N2O4
